US06753423B1
R. Preparation of 5′-O-(dimethoxytrityl)-2′-O-[hexyl-N-(2,4-dinitrophenyl)amino]uridine
5′-O-(dimethoxytrityl)-2′-O-(hexylamino)uridine (0.88 grams, 1.37 mmol) was dissolved in methanol (20 mL). 2,4-Dinitrofluorobenzene (DNFB, 0.25 grams, 1.37 mmol) was added and the mixture shaken on a mechanical shaker. The reaction was monitored by TLC. After 90 minutes, another 0.25 grams of DNFB was added and the reaction mixture shaken an additional 30 minutes, followed by addition of another 0.25 grams of DNFB. After shaking 2.5 hours, the mixture was concentrated in vacuo and chromatographed on a silica gel column, eluting with a gradient of 25% ethyl acetate in hexanes to 100% ethyl acetate. The desired product (0.51 grams, 46%) eluted with 100% ethyl acetate (Rf 0.85 by TLC).

reactant | 5′-O-(dimethoxytrityl)-2′-O-(hexylamino)uridine | 1.37 mmol, 0.88 grams | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C=C2)ONCCCCCC)O)C=CC1)OC | C36H43N3O8
reactant | 2,4-Dinitrofluorobenzene | 1.37 mmol, 0.25 grams | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | DNFB | 0.25 grams | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | DNFB | 0.25 grams | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | methanol | 20 mL | CO | CH4O
product | 5′-O-(dimethoxytrityl)-2′-O-[hexyl-N-(2,4-dinitrophenyl)amino]uridine | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C=C2)ON(C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])CCCCCC)O)C=CC1)OC | C42H45N5O12
